US03979390
A mixture of γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-2-benzylamino-4-fluorobutyrophenone (3.8 g), 10 % palladium on charcoal (1.0 g) and 35 % hydrochloric acid (2.0 g) in ethanol (45 ml) was vigorously stirred in hydrogen atmosphere at 25°C until an equimolar amount of hydrogen was consumed. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to afford γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-2-amino-4-fluorobutyrophenon hydrochloride. M.P. 230° - 235°C (decomposition). The hydrochloride was shaken with a mixture of aqueous ammonia and ether. The ethereal layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield the free base, which was recyrstallized from aqueous ethanol. M.P. 105° - 107°C.

reactant | γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-2-benzylamino-4-fluorobutyrophenone | 3.8 g | OC1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)NCC1=CC=CC=C1)F)C1=CC(=CC=C1)C(F)(F)F | C29H30F4N2O2
reactant | hydrochloric acid | 2.0 g | Cl | ClH
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
product | γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-2-amino-4-fluorobutyrophenon hydrochloride | Cl.OC1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)N)F)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C22H24F4N2O2.ClH/c23-19(14-18(27)20(29)15-5-2-1-3-6-15)28-11-9-21(30,10-12-28)16-7-4-8-17(13-16)22(24,25)26;/h1-8,13,18-19,30H,9-12,14,27H2;1H
